US05981533
4-Cyano-5-(dimethylamino-methyleneamino)-3-(3-methyl-phenylamino)-pyrazole
A suspension of 10.71 g (50.22 mmol) of 5-amino-4-cyano-3-(3-methyl-phenylamino)-pyrazole [for preparation see: Arch. Pharm. (Weinheim) 326, 245 (1993)], 9.9 ml (57.8 mmol) of N,N-dimethylformamide diethyl acetal and 150 ml of toluene is heated under reflux for 4 hours. The reaction mixture is then cooled to RT and filtered and the filter residue is washed with toluene and diethyl ether, yielding the title compound; m.p. 260-261° C.

reactant | 5-amino-4-cyano-3-(3-methyl-phenylamino)-pyrazole | 50.22 mmol, 10.71 g | NC1=C(C(=NN1)NC1=CC(=CC=C1)C)C#N | C11H11N5
reactant | N,N-dimethylformamide diethyl acetal | 57.8 mmol, 9.9 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-5-(dimethylamino-methyleneamino)-3-(3-methyl-phenylamino)-pyrazole | C(#N)C=1C(=NNC1N=CN(C)C)NC1=CC(=CC=C1)C | C14H16N6
